US09062028B2
Step A. 2-(3-Chloro-2-methylphenoxy)ethyl 9-(1-(4-(tert-butoxycarbonyl)-2-chloro-6-fluorobenzyl)-1H-pyrazol-4-yl)-3-oxo-3,4-dihydrobenzo[b][1,4]oxazepine-5(2H)-carboxylate
To a solution of 2-(3-chloro-2-methylphenoxy)ethyl 9-(1-(4-(tert-butoxycarbonyl)-2-chloro-6-fluorobenzyl)-1H-pyrazol-4-yl)-3-hydroxy-3,4-dihydrobenzo[b][1,4]oxazepine-5(2H)-carboxylate (59 mg, 0.086 mmol) in DCM (5.0 mL) was added Dess-Martin periodinane (109 mg, 0.258 mmol). The reaction was stirred at room temperature for 2 d. The mixture was diluted with a solution of saturated sodium bicarbonate (15 mL) and extracted with DCM (20 mL). The organic layer was dried over sodium sulfate and concentrated. The crude product was purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound (58 mg, 92% yield) as white form. LCMS, [M+H]+=684.3. 1H NMR (400 MHz, CDCl3) δ 7.89-7.86 (m, 1H), 7.83 (d, J=6.8 Hz, 2H), 7.66 (dd, J=9.5, 1.5 Hz, 1H), 7.42 (dd, J=7.7, 1.5 Hz, 1H), 7.18 (br. s., 1H), 7.10-6.95 (m, 3H), 6.68 (d, J=7.3 Hz, 1H), 5.54 (d, J=1.5 Hz, 2H), 4.54 (s, 4H), 4.49 (s, 2H), 4.16 (br. s., 2H), 2.21 (br. s., 3H), 1.59 (s, 9H).

reactant | 2-(3-chloro-2-methylphenoxy)ethyl 9-(1-(4-(tert-butoxycarbonyl)-2-chloro-6-fluorobenzyl)-1H-pyrazol-4-yl)-3-hydroxy-3,4-dihydrobenzo[b][1,4]oxazepine-5(2H)-carboxylate | 0.086 mmol, 59 mg | C(C)(C)(C)OC(=O)C1=CC(=C(CN2N=CC(=C2)C2=CC=CC3=C2OCC(CN3C(=O)OCCOC3=C(C(=CC=C3)Cl)C)O)C(=C1)F)Cl | C34H34Cl2FN3O7
reactant | Dess-Martin periodinane | 0.258 mmol, 109 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
product | 2-(3-Chloro-2-methylphenoxy)ethyl 9-(1-(4-(tert-butoxycarbonyl)-2-chloro-6-fluorobenzyl)-1H-pyrazol-4-yl)-3-oxo-3,4-dihydrobenzo[b][1,4]oxazepine-5(2H)-carboxylate | 58 mg, 92% yield | C(C)(C)(C)OC(=O)C1=CC(=C(CN2N=CC(=C2)C2=CC=CC3=C2OCC(CN3C(=O)OCCOC3=C(C(=CC=C3)Cl)C)=O)C(=C1)F)Cl | C34H32Cl2FN3O7
